US07259165B2
Preparation 3-(Phenylsulfonyl)-5-piperazin-1-yl-1H-pyrrolo[3,2-b]pyridine Dihydrochloride
A stirred mixture of 5-(4-benzylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-pyrrolo[3,2-b]pyridine (0.865 g, 2.00 mmol) and 1-chloroethylchloroformate (0.65 mL, 6.00 mmol) in 1,2-dichloroethane is heated at reflux temperature for 2.5 h under nitrogen, cooled and concentrated in vacuo, and reconcentrated from CH2Cl2 to a solid. This solid is heated with ethanol at reflux temperature under nitrogen for 2 h, cooled and concentrated in vacuo. The resultant residue is stirred in ethanol for 16 h and filtered. The filtercake is heated with methanol and two drops of concentrated hydrochloric acid for 30 h and concentrated in vacuo to a solid. This solid is chromatographed (silica gel, 5:95 concentrated ammonium hydroxide:ethanol as eluent) to afford the free amine of the title compound as a white solid. The free amine is dissolved in methanol, treated with 2.0 M aqueous hydrochloric acid (1.1 mL, 2.2 mmol) and concentrated to an off-white solid residue. This residue is recystallized from methanol to afford the title compound as an off-white solid, 165 mg (24% yield), mp 198-203° C. (foams), identified by NMR and mass spectral analyses.

reactant | 5-(4-benzylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-pyrrolo[3,2-b]pyridine | 2.00 mmol, 0.865 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C2C(=N1)C(=CN2)S(=O)(=O)C2=CC=CC=C2 | C24H24N4O2S
reactant | 1-chloroethylchloroformate | 6.00 mmol, 0.65 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-(Phenylsulfonyl)-5-piperazin-1-yl-1H-pyrrolo[3,2-b]pyridine Dihydrochloride | Cl.Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CNC=2C1=NC(=CC2)N2CCNCC2 | InChI=1S/C17H18N4O2S.2ClH/c22-24(23,13-4-2-1-3-5-13)15-12-19-14-6-7-16(20-17(14)15)21-10-8-18-9-11-21;;/h1-7,12,18-19H,8-11H2;2*1H
